US05473065
A cold (-10° C.) solution of diethyl sodio(phenyl)-malonate in anhydrous tetrahydrofuran [prepared in conventional fashion from sodium hydride (2.5 mmol) and diethyl phenylmalonate (0.5 g, 2.1 mmol) in THF (15 cm3)] was added slowly to a cold (-10° C.) stirred solution of 1,4-difluoro-1,4-diazoniabicyclo[2.2.2]octane bistriflate (0.95 g, 2.12 mmol) in dry acetonitrile (50 cm3) under an atmosphere of nitrogen. The reaction mixture was allowed to warm to room temperature and then diluted with diethyl ether (100 cm3). The mixture was then washed with 0.5M oxalic acid (30 cm3), 10% aqueous potassium hydrogen carbonate (30 cm3), and saturated brine (30 cm3) (in that order), dried (MgSO4), filtered, and the filtrate evaporated under reduced pressure to provide diethyl fluoro(phenyl)-malonate (65% yield) with correct NMR parameters.

reactant | diethyl sodio(phenyl)-malonate | [Na]C(C(=O)OCC)(C(=O)OCC)C1=CC=CC=C1
reactant | tetrahydrofuran | 2.5 mmol, 15 cm3, 0.5 g | O1CCCC1 | C4H8O
reactant | 1,4-difluoro-1,4-diazoniabicyclo[2.2.2]octane bistriflate | 2.12 mmol, 0.95 g | [O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F.F[N+]12CC[N+](CC1)(CC2)F
solvent | acetonitrile | 50 cm3 | C(C)#N | C2H3N
solvent | diethyl ether | 100 cm3 | C(C)OCC | C4H10O
product | diethyl fluoro(phenyl)-malonate | 65% yield | FC(C(=O)OCC)(C(=O)OCC)C1=CC=CC=C1 | C13H15FO4
